US04525356
N-(3-Piperidinopropyl)-3,3'-dimethylflavone-8-carboxamide
To a solution of 3,3'-dimethylflavone-8-carboxylic acid chloride (prepared from 1.00 g of 3,3'-dimethylflavone-8-carboxylic acid and 0.50 ml of thionyl chloride) in 30 ml of benzene were added 0.44 g of 3-piperidinopropylamine and the mixture was stirred for 2 hours at room temperature. To the mixture was added aqueous HCl soluction and the mixture was shaken. The water layer was separated and made alkaline with potassium carbonate and extracted with chloroform. The extract was washed with water, dried, and evaporated, and to the residue was added isopropyl ether. The precipitate was filtered to give 0.80 g of reddish brown crystals, which were recrystallized from a mixture of acetone and water as colorless needles, m.p. 112°-114° C.

reactant | 3,3'-dimethylflavone-8-carboxylic acid chloride | 0.50 ml, 1.00 g | CC1=C(OC2=C(C=CC=C2C1=O)C(=O)Cl)C1=CC(=CC=C1)C | C18H13ClO3
reactant | 3-piperidinopropylamine | 0.44 g | N1(CCCCC1)CCCN | C8H18N2
reactant | HCl | Cl | ClH
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | N-(3-Piperidinopropyl)-3,3'-dimethylflavone-8-carboxamide | 0.80 g | N1(CCCCC1)CCCNC(=O)C=1C=CC=C2C(C(=C(OC12)C1=CC(=CC=C1)C)C)=O | C26H30N2O3
